US05424329
N-(2-Hydroxyphenyl)-5-methoxy-3-(1-methylethoxy)-1-phenyl-1H-indole-2-carboxamide
The procedure described in Example 16 is used to prepare the acyl chloride of 5-methoxy-3-(1-methylethoxy)-1-phenyl-1H-indole-2-carboxylic acid (4.0 g, 12 mmol). A solution of the crude acyl chloride in 45 mL of tetrahydrofuran is cooled in ice and treated dropwise with a solution of 2-aminophenol (1.3 g, 12 mmol) in 20 mL of tetrahydrofuran, followed by dropwise addition of triethylamine (1.7 mL, 1.2 g, 12 mmol). The mixture is stirred at room temperature for 2 hours and added to 300 mL of water. The mixture is extracted with dichloromethane, and the combined organic layers are washed with brine, dried (anhydrous sodium sulfate), and evaporated. Trituration of the residue with tert-butyl methyl ether yields 3.5 g (69%) of product; mp 168°-170° C.

reactant | 5-methoxy-3-(1-methylethoxy)-1-phenyl-1H-indole-2-carboxylic acid | 12 mmol, 4.0 g | COC=1C=C2C(=C(N(C2=CC1)C1=CC=CC=C1)C(=O)O)OC(C)C | C19H19NO4
reactant | 2-aminophenol | 12 mmol, 1.3 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | triethylamine | 12 mmol, 1.7 mL, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | water | 300 mL | O | H2O
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-(2-Hydroxyphenyl)-5-methoxy-3-(1-methylethoxy)-1-phenyl-1H-indole-2-carboxamide | 3.5 g, 69% | OC1=C(C=CC=C1)NC(=O)C=1N(C2=CC=C(C=C2C1OC(C)C)OC)C1=CC=CC=C1 | C25H24N2O4
